US04711896
2,15-Dimethoxy-3,3,14,14-tetramethylhexadecane-1,16-dioic acid
1.21 g. 2,15-Dibromo-3,3,14-,14-tetramethylhexadecane-1,16-dioic acid, prepared according to Example 9 of EP-OS No. 0 081 930, was dissolved in 50 ml. methanol, in which are contained 0.58 g. sodium methylate. Thereafter, 64 ml. water were added thereto and the mixture heated to 60° C. for 4 days. The solvent was evaporated to dryness and the crude product dissolved in water, washed with ether, acidified with HCl and extracted with ether. The ether extract was dried over anhydrous magnesium sulphate and evaporated to dryness.

reactant | 2,15-Dibromo-3,3,14-,14-tetramethylhexadecane-1,16-dioic acid | BrC(C(=O)O)C(CCCCCCCCCCC(C(C(=O)O)Br)(C)C)(C)C | C20H36Br2O4
reactant | methanol | CO | CH4O
reactant | sodium methylate | C[O-].[Na+]
solvent | water | O | H2O
product | 2,15-Dimethoxy-3,3,14,14-tetramethylhexadecane-1,16-dioic acid | COC(C(=O)O)C(CCCCCCCCCCC(C(C(=O)O)OC)(C)C)(C)C | C22H42O6
